US07141580B2
Step 1. 4-Chloro-2-methyl-5-nitrobenzonitrile
To a solution of 4-chloro-2-methylbenzonitrile (10 g, 66 mmol) in conc. H2SO4 was added KNO3 (7.0 g, 69.3 mmol) at 0° C. in small portions, and then the reaction mixture was stirred overnight at ambient temperature. It was then poured into ice and extracted with AcOEt. The combined extracts were washed by sat. NaHCO3 aq., dried over MgSO4 and concentrated. The resulting precipitates were collected by filtration, washed with ether, and dried under reduced pressure to give 5.5 g (42%) of the title compound.

reactant | 4-chloro-2-methylbenzonitrile | 66 mmol, 10 g | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
reactant | KNO3 | 69.3 mmol, 7.0 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 4-Chloro-2-methyl-5-nitrobenzonitrile | 5.5 g, 42% | ClC1=CC(=C(C#N)C=C1[N+](=O)[O-])C | C8H5ClN2O2
